US07576094B2
To a solution of 6′-methoxy-5′,7′-dimethyl-1′H-spiro[cyclobutane-1,2′-quinolin]-4′(3′H)-one (1 g) in a mixture of 35 mL methanol and 15 mL CH2Cl2, was added NaBH4 (2 g) slowly at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes and then at room temperature for three days. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried with Na2SO4 and evaporated, to yield 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinolin]-4′-ol was used in the next step without further purification.

reactant | 6′-methoxy-5′,7′-dimethyl-1′H-spiro[cyclobutane-1,2′-quinolin]-4′(3′H)-one | 1 g | COC=1C(=C2C(CC3(NC2=CC1C)CCC3)=O)C | C15H19NO2
reactant | NaBH4 | 2 g | [BH4-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 6′-methoxy-5′,7′-dimethyl-3′,4′-dihydro-1′H-spiro[cyclobutane-1,2′-quinolin]-4′-ol | COC=1C(=C2C(CC3(NC2=CC1C)CCC3)O)C | C15H21NO2
